US07087579B2
To a solution of 4-({4-[3-(benzyloxy)propyl]phenyl}methyl)-5-trifluoromethyl-1,2-dihydro-3H-pyrazole-3-one (0.83 g) and acetobromo-α-D-glucose (1.5 g) in acetonitrile (12 mL) was added potassium carbonate (0.55 g), and the mixture was stirred at 60° C. for 20 hours. Insoluble materials were removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/1-1/2) to give 4-({4-[3-(benzyloxy)propyl]phenyl}methyl)-5-trifluoromethyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.64 g).

reactant | 4-({4-[3-(benzyloxy)propyl]phenyl}methyl)-5-trifluoromethyl-1,2-dihydro-3H-pyrazole-3-one | 0.83 g | C(C1=CC=CC=C1)OCCCC1=CC=C(C=C1)CC=1C(NNC1C(F)(F)F)=O | C21H21F3N2O2
reactant | acetobromo-α-D-glucose | 1.5 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 4-({4-[3-(benzyloxy)propyl]phenyl}methyl)-5-trifluoromethyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.64 g | C(C1=CC=CC=C1)OCCCC1=CC=C(C=C1)CC=1C(=NNC1C(F)(F)F)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C35H39F3N2O11
